US06180627B2
(2R)-2-Piperidinecarboxamide
(2R)-2-(Methoxycarbonyl)piperidinium chloride (2.6 g, 14.5 mmol) was dissolved in ammonia (0.88M, 30 ml). The reaction mixture was heated at 60° C. for 1.5 hr. The mixture was partitioned between ethyl acetate (100 ml) and sodium hydroxide (1N, 100 ml, 100 mmol), the aqueous was washed with ethyl acetate (3×100 ml). The combined organic layers were dried over sodium sulphate and the solvent evaporated under reduced pressure. Aqueous layer was acidified with hydrochloric acid and evaporated to dryness under reduced pressure. The resultant white solid was triturated with dichloromethane:methanol (9:1), the remaining solid was removed by filtration and the filtrate evaporated under reduced pressure to afford the title compound as a white solid, 1.14 g, (61%).

reactant | (2R)-2-(Methoxycarbonyl)piperidinium chloride | 14.5 mmol, 2.6 g | [Cl-].COC(=O)[C@@H]1[NH2+]CCCC1
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium hydroxide | 100 mmol, 1N, 100 ml | [OH-].[Na+]
reactant | ammonia | 0.88M, 30 ml | N | H3N
product | (2R)-2-Piperidinecarboxamide | N1[C@H](CCCC1)C(=O)N | C6H12N2O
